US07790709B2
Preparation of (E)-2-Amino-5-{2-[methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}-N-(2-morpholin-4-yl-ethyl)nicotinamide hydrochloride
According to the procedure of Example 1, except substituting 3-[6-amino-5-(2-morpholin-4-yl-ethylcarbamoyl)pyridin-3-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, and methyl-(1-methyl-1H-indol-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, the title compound (170 mg, 23%) was prepared as a pale yellow solid: 1H NMR (300 MHz, DMSO-d6) δ 10.87-10.61 (m, 1H), 9.69-9.66 (m, 1H), 9.40-9.28 (m, 1H), 8.70-8.31 (m, 3H), 7.95-7.39 (m, 4H), 7.15-6.97 (m, 2H), 6.40-6.08 (m, 1H), 5.27-4.85 (m, 2H), 3.94-3.55 (m, 12H), 3.20-2.96 (m, 6H); MS (ESI) m/e 477 (M+H)+.

reactant | 3-[6-amino-5-(2-morpholin-4-yl-ethylcarbamoyl)pyridin-3-yl]acrylic acid hydrochloride | Cl.NC1=C(C=C(C=N1)C=CC(=O)O)C(NCCN1CCOCC1)=O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
reactant | methyl-(1-methyl-1H-indol-2-ylmethyl)amine | CNCC=1N(C2=CC=CC=C2C1)C | C11H14N2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
product | (E)-2-Amino-5-{2-[methyl-(1-methyl-1H-indol-2-ylmethyl)carbamoyl]vinyl}-N-(2-morpholin-4-yl-ethyl)nicotinamide hydrochloride | 170 mg, 23% | Cl.NC1=C(C(=O)NCCN2CCOCC2)C=C(C=N1)\C=C\C(N(CC=1N(C2=CC=CC=C2C1)C)C)=O | InChI=1S/C26H32N6O3.ClH/c1-30(18-21-16-20-5-3-4-6-23(20)31(21)2)24(33)8-7-19-15-22(25(27)29-17-19)26(34)28-9-10-32-11-13-35-14-12-32;/h3-8,15-17H,9-14,18H2,1-2H3,(H2,27,29)(H,28,34);1H/b8-7+;
